US07323455B2
tert-Butyl-2-cyano-5-(5-methyl-2-oxo-1,2,3,5-tetrahydro-4,1-benzoxazepin-7-yl)-1H-pyrrole-1-carboxylate was prepared from tert-butyl-2-(5-methyl-2-oxo-1,2,3,5-tetrahydro-4,1-benzoxazepin-7-yl)-1H-pyrrole-1-carboxylate and chlorosulfonyl isocyanate according to the cyanation procedure described in example 1. 1H-NMR (DMSO-d6) δ 10.30 (s, 1H), 7.37-7.25 (m, 3H), 7.16 (d, J=8.26 Hz, 1H), 6.46 (d, J=3.77 Hz, 1H), 4.81 (q, J=6.14 Hz, 1H), 4.47 (d, J=16.42 Hz, 1H), 4.36 (d, J=16.44 Hz, 1H), 1.51 (d, J=6.48 Hz, 3H), 1.37 (s, 9H); MS (ES) m/z 366 ([M−H]−, 100%).

reactant | tert-butyl-2-(5-methyl-2-oxo-1,2,3,5-tetrahydro-4,1-benzoxazepin-7-yl)-1H-pyrrole-1-carboxylate | C(C)(C)(C)OC(=O)N1C(=CC=C1)C=1C=CC2=C(C(OCC(N2)=O)C)C1 | C19H22N2O4
reactant | chlorosulfonyl isocyanate | ClS(=O)(=O)N=C=O | CClNO3S
product | tert-Butyl-2-cyano-5-(5-methyl-2-oxo-1,2,3,5-tetrahydro-4,1-benzoxazepin-7-yl)-1H-pyrrole-1-carboxylate | C(C)(C)(C)OC(=O)N1C(=CC=C1C=1C=CC2=C(C(OCC(N2)=O)C)C1)C#N | C20H21N3O4
